US04167567
In the manner given in Example 15, 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine is reacted with 4-chlorophenylsulfonyl chloride in the presence of triethylamine under nitrogen to give 1-[(4-chlorophenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine of melting point 234°-236° C. in 77% yield.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 4-chlorophenylsulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(4-chlorophenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 77% yield | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C27H22ClF3N4O3S
